US07863293B2
Using General Procedure B, reaction of {4-[(1-methyl-1H-imidazol-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester in CH2C2, 3-methyl-pyridine-2-carbaldehyde in CH2Cl2 and NaBH(OAc)3 gave {4-[(1-methyl-1H-imidazol-2-ylmethyl)-(3-methyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester as a sticky white solid. 1H NMR (CDCl3) δ 1.43 (s, 9H), 2.01 (s, 3H), 2.05-2.08 (m, 4H), 2.30 (s, 3H), 2.64 (t, 1H, J=7.5 Hz), 2.94-3.04 (m, 2H), 3.56 (s, 2H), 3.82 (s, 2H), 4.20 (s, 2H), 6.81 (d, 1H, J=1.7 Hz), 7.09-7.15 (m, 2H), 7.43-7.45 (m, 1H), 8.40 (d, 1H, J=3.5 Hz). Deprotection with TFA using General Procedure F gave COMPOUND 230 as a white solid. 1H NMR (CDCl3) δ 1.22-1.32 (m, 2H), 1.41-1.49 (m, 4H), 2.21 (s, 3H), 2.48-2.55 (m, 4H), 3.41 (s, 3H), 3.64 (s, 2H), 3.72 (s, 2H), 6.76 (s, 1H), 6.87 (s, 1H), 7.06-7.10 (m, 1H), 7.40 (d, 1H, J=7.5 Hz), 8.35 (d, 1H, J=4.2 Hz). 13C NMR (CDCl3) δ 16.98, 22.56, 30.18, 31.41, 40.63, 49.44, 53.11, 57.94, 120.31, 121.43, 125.99, 131.96, 136.99, 144.58, 145.13, 155.90. ES-MS m/z 288 (M+H). Anal. Calcd. for C16H25N5.0.1H2O.0.2CH2Cl2.0.1CH4O: C, 63.28; H, 8.47; N, 22.64. Found: C, 63.59; H, 8.58; N, 22.30.

reactant | {4-[(1-methyl-1H-imidazol-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCNCC=1N(C=CN1)C)=O | C14H26N4O2
reactant | 3-methyl-pyridine-2-carbaldehyde | CC=1C(=NC=CC1)C=O | C7H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | {4-[(1-methyl-1H-imidazol-2-ylmethyl)-(3-methyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCN(CC1=NC=CC=C1C)CC=1N(C=CN1)C)=O | C21H33N5O2
